US04783472
Hydrochloride of the acid chloride derived from (+)-3-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole-7-carboxylic acid (24.5 g) is added, at a temperature between 60° and 72° C., to a solution of 3-aminobenzophenone (16.1 g) and triethylamine (16.5 g) in dioxane (420 cc) which is heated to a temperature in the vicinity of 60° C., in the course of 5 minutes. The suspension obtained is heated, with stirring, at a temperature in the vicinity of 100° C. for 6 hours and 30 minutes and then stirred at a temperature in the vicinity of 20° C. for 16 hours. The solvent is evaporated off under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature in the vicinity of 60° C. The residue is dissolved in ethyl acetate (750 cc). The solution obtained is washed 3 times with distilled water (800 cc in total), twice with a saturated aqueous sodium bicarbonate solution (600cc in total) and twice with distilled water (600 cc in total) and then dried over anhydrous magnesium sulphate, treated with decolourizing charcoal (0.5 g), filtered and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature in the vicinity of 60° C. Crude product (36 g) is thereby obtained, which is dissolved in a boiling ethanol:water (85:15 by volume) mixture (200 cc). Decolourizing charcoal (0.5 g) is added to the solution obtained and the suspension is filtered in the heated state. The filtrate is cooled at a temperature in the vicinity of 20° C. for 3 hours. The crystals formed are separated by filtration, washed 3 times with an ethanol: water (85:15 by volume) mixture (75 cc in total) and 4 times with diethylether (200 cc in total) and then dried under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature in the vicinity of 20° C. in the presence of potassium hydroxide pellets. (+)-N-(3-benzoylphenyl)-3-(3-pyridyl)-1H,2H-pyrrolo[1,2-c]thiazole-7-carboxamide in the hydrated state (20.7 g), in the form of cream-coloured crystals, m.p. 109° C. is thereby obtained.

reactant | Hydrochloride | Cl | ClH
reactant | (+)-3-(3-pyridyl)-1H,3H-pyrrolo[1,2-c]thiazole-7-carboxylic acid | 24.5 g | N1=CC(=CC=C1)C1SCC=2N1C=CC2C(=O)O | C12H10N2O2S
reactant | 3-aminobenzophenone | 16.1 g | NC=1C=C(C(=O)C2=CC=CC=C2)C=CC1 | C13H11NO
reactant | charcoal | 0.5 g | C | CH4
solvent | dioxane | 420 cc | O1CCOCC1 | C4H8O2
solvent | ethanol water | C(C)O.O
solvent | triethylamine | 16.5 g | C(C)N(CC)CC | C6H15N
product | (+)-N-(3-benzoylphenyl)-3-(3-pyridyl)-1H,2H-pyrrolo[1,2-c]thiazole-7-carboxamide | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)NC(=O)C=1C=CN2C(SCC21)C=2C=NC=CC2 | C25H19N3O2S
